US07179801B2
To a solution of 5-amino-4-(2-aminoethyl)-1-(2-triphenylmethyloxyethyl)-1H-pyrazole (3.6 g) in tetrahydrofuran (36 ml) was added di-tert-butyl dicarbonate (2.02 g). The mixture was stirred at room temperature for 19 hours and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with ethyl acetate/hexane (2:3). The eluate was concentrated in vacuo to give 5-amino-4-(2-tert-butoxycarbonylaminoethyl)-1-(2-triphenylmethyloxyethyl)-1H-pyrazole (1.79 g).

reactant | 5-amino-4-(2-aminoethyl)-1-(2-triphenylmethyloxyethyl)-1H-pyrazole | 3.6 g | NC1=C(C=NN1CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCN | C26H28N4O
reactant | di-tert-butyl dicarbonate | 2.02 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 36 ml | O1CCCC1 | C4H8O
product | 5-amino-4-(2-tert-butoxycarbonylaminoethyl)-1-(2-triphenylmethyloxyethyl)-1H-pyrazole | 1.79 g | NC1=C(C=NN1CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCNC(=O)OC(C)(C)C | C31H36N4O3
